US05110815
5-[[2-(3,4-Dichlorophenyl)ethyl]amino]-5,6,7,8-tetrahydro-1-methyl-2(1H)-quinolinone
A mixture of 2-(3,4-dichlorophenyl)ethylamine (3.8 g), 5,6,7,8-tetrahydro-1-methyl-5-oxo-2(1H)-quinolinone (3.0 g), and para-toluenesulfonic acid (130 mg) was heated in refluxing toluene (50 ml), with azeotropic removal of water, for 41 hrs. An additional 1 g of the amine and 0.1 g of para-toluenesulfonic acid were added, and the mixture was heated for an additional 24 hrs. The solution was cooled and the precipitate was collected. Sodium borohydride (0.6 g) was added to a solution of the precipitate in ethyl alcohol (50 ml), and the mixture was stirred at room temperature for 1 hr. The mixture was concentrated in vacuo, the residue was quenched with water, and the mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in hot ethanol and treated with an equivalent amount of fumaric acid. The solid was collected and recrystallized from ethanol to provide 3.8 g (48%) of product, mp 172°-173° C.

reactant | 2-(3,4-dichlorophenyl)ethylamine | 3.8 g | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | 5,6,7,8-tetrahydro-1-methyl-5-oxo-2(1H)-quinolinone | 3.0 g | CN1C(C=CC=2C(CCCC12)=O)=O | C10H11NO2
catalyst | para-toluenesulfonic acid | 130 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[[2-(3,4-Dichlorophenyl)ethyl]amino]-5,6,7,8-tetrahydro-1-methyl-2(1H)-quinolinone | 3.8 g, 48% | ClC=1C=C(C=CC1Cl)CCNC1C=2C=CC(N(C2CCC1)C)=O | C18H20Cl2N2O
